US05703106
A solution of N-butanesulfonyl-N-trimethylsilylamide (0.75 g, 3.6 mmol), t-butoxycarbonyltryptophan fluoride (0.92 g, 3.01 mmol), and dimethylaminopyridine (37 mg, 0.3 mmol) in tetrahydrofuran (10 ml) is stirred at room temperature for 2 hours. The mixture is diluted with 10% citric acid and extracted with ethyl acetate. The organic layer is washed with water and brine, dried over magnesium sulfate, and concentrated in vacuo. The crude material is chromatographed on silica gel with ethyl acetate/hexane (1:1) and trace of acetic acid to give N-butanesulfonyl-(t-butoxycarbonyl)tryptophanamide.

reactant | N-butanesulfonyl-N-trimethylsilylamide | 3.6 mmol, 0.75 g | C(CCC)S(=O)(=O)[N-][Si](C)(C)C
reactant | t-butoxycarbonyltryptophan fluoride | 3.01 mmol, 0.92 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)F | C16H19FN2O3
reactant | dimethylaminopyridine | 0.3 mmol, 37 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | N-butanesulfonyl-(t-butoxycarbonyl)tryptophanamide | C(CCC)S(=O)(=O)NC([C@@H](NC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O | C20H29N3O5S
